US05691298
The preparation is repeated using a 1:1:1 mole ratio of diethylene glycol, triethylene glycol, and glycerin to obtain the desired approximately 1:1:1 mole ratio mixture of sodium 2-[2-(2-hydroxyethoxy)ethoxy]ethanesulfonate, sodium 2-{2-[2-(2-hydroxyethoxy)ethoxy]ethoxy}ethanesulfonate, and sodium 2-(2,3-dihydroxypropoxy)ethanesulfonate.

reactant | diethylene glycol | C(COCCO)O | C4H10O3
reactant | glycerin | OCC(O)CO | C3H8O3
product | triethylene glycol | C(COCCOCCO)O | C6H14O4
